US06787560B2
3-{2-[4-(2-Bromo-5-methoxybenzyl)-1-piperidinyl]-ethyl}-N-[3-(hydroxymethyl)benzyl]benzamide
In tetra-n-butylammonium fluoride (a 1.0M THF solution, 5 mL, 5.0 mmol) was dissolved 3-{2-[4-(2-bromo-5-methoxybenzyl)-1-piperidinyl]ethyl}-N-[3-(tert-butyldimethylsiloxymethyl)benzyl]benzamide (389 mg, 0.584 mmol), and the resulting solution was stirred at room temperature for 2 hours. The reaction mixture was purified by the use of a silica gel column (silica gel 30 mL; ethyl acetate˜ethyl acetate/triethylamine=10/1) to obtain the desired compound (235 mg, 73%) as a yellow oil.

reactant | 3-{2-[4-(2-bromo-5-methoxybenzyl)-1-piperidinyl]ethyl}-N-[3-(tert-butyldimethylsiloxymethyl)benzyl]benzamide | 0.584 mmol, 389 mg | BrC1=C(CC2CCN(CC2)CCC=2C=C(C(=O)NCC3=CC(=CC=C3)CO[Si](C)(C)C(C)(C)C)C=CC2)C=C(C=C1)OC | C36H49BrN2O3Si
solvent | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1.0M | C1CCOC1 | C4H8O
product | 3-{2-[4-(2-Bromo-5-methoxybenzyl)-1-piperidinyl]-ethyl}-N-[3-(hydroxymethyl)benzyl]benzamide | 235 mg, 73% | BrC1=C(CC2CCN(CC2)CCC=2C=C(C(=O)NCC3=CC(=CC=C3)CO)C=CC2)C=C(C=C1)OC | C30H35BrN2O3
